US07629344B2
Synthesis of 1-[4-(4-Chloro-2-fluoro-5-methoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone
The title compound was prepared following Protocol A. 1-(4-Chloro-2-fluoro-5-methoxyphenyl)piperazine dihydrochloride and [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid were used as the coupling components. The crude product was purified by silica gel chromatography (1% to 10% MeOH in CH2Cl2) to provide 1-[4-(4-chloro-2-fluoro-5-methoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone as a tan solid (27 mg): 1H NMR (CDCl3, 400 MHz) 8.79 (dd, 0.6H), 8.67 (dd, 0.4H), 8.57-8.55 (m, 1H), 7.31-7.20 (m, 2H), 7.12-7.06 (m, 2H), 6.49-6.45 (m, 1H), 5.45 (s, 0.6H), 5.43 (s, 1.4H), 3.86 (s, 0.9H), 3.85 (s, 2.1H), 3.81-3.75 (m, 4H), 3.15-3.08 (m, 4H); LC/MS m/z (M+H)+ 470.4.

reactant | 1-(4-Chloro-2-fluoro-5-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.ClC1=CC(=C(C=C1OC)N1CCNCC1)F
reactant | [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
product | 1-[4-(4-chloro-2-fluoro-5-methoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone | 27 mg | ClC1=CC(=C(C=C1OC)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O)F | C22H21ClFN7O2
